US06458817B1
tert-butyl{4-[(2S)oxiranylmethoxy]phenoxy}diphenylsilane
To a cold solution of 4-(diphenyl-tert-butylsilyloxy)phenol (19.60 g, 56.24 mmol), R-(+)-glycidol (6.16 mL, 92.80 mmol), and triphenylphosphine (24.34 g, 92.80 mmol) in benzene (140 mL) and THF (20 mL) was added DEAD (15.06 mL, 95.60 mmol) in benzene (20 mL) dropwise. After addition of the DEAD the ice/water bath was removed and the reaction mixture was allowed to stir at room temperature for 18 h. Ethyl acetate (75 mL) was added to the purple solution and it was filtered through a 5 cm pad of silica gel. The filtrate was evaporated in vacuo and a solution of hexane (100 mL) and ether (100 mL) was added to precipitate the triphenylphosphine oxide; this was removed by vacuum filtration. Silica gel (150 g) was added to the filtrate and the solvent was removed in vacuo. The reaction mixture, preabsorbed onto silica gel was applied to the top of a flash chromatography column and purified in the standard manner (silica gel, 33% diethyl ether/hexane as eluant). This procedure afforded 13.53 g of the title compound as a white solid.

reactant | 4-(diphenyl-tert-butylsilyloxy)phenol | 56.24 mmol, 19.60 g | C1(=CC=CC=C1)[Si](OC1=CC=C(C=C1)O)(C(C)(C)C)C1=CC=CC=C1 | C22H24O2Si
reactant | triphenylphosphine | 92.80 mmol, 24.34 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 95.60 mmol, 15.06 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | benzene | 140 mL | C1=CC=CC=C1 | C6H6
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | tert-butyl{4-[(2S)oxiranylmethoxy]phenoxy}diphenylsilane | 13.53 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OC[C@H]1OC1 | C25H28O3Si
